US05196610
1,1,1-Trifluoro-2-(3-fluoro-4-ethoxyphenyl)propan-2,3-diol (0.4 g), prepared as described in Example 8 (ii), 3-phenoxybenzyl bromide (0.39 g), 40% sodium hydroxide solution (5cm3), dichloromethane (5 cm3) and tetra-n-butylammonium hydrogen sulphate (50 mg) were mixed, and stirred at room temperature under an atmosphere of nitrogen for 41/2 hours. The reaction mixture was partitioned between water and dichloromethane. The organic layer was separated and the aqueous layer washed with dichloromethane. The combined organic layers were dried over anhydrous sodium sulphate and concentrated by evaporation under reduced pressure to give 1,1,1-trifluoro-2-(3-fluoro-4-ethoxyphenyl)-3-(3-phenoxybenzyloxy) propan-2-ol as an oil (0.67 g). The product was purified by column chromatography on a silica gel support, using n-hexane containing 15% by volume ethyl acetate as eluent.

reactant | 1,1,1-Trifluoro-2-(3-fluoro-4-ethoxyphenyl)propan-2,3-diol | 0.4 g | FC(C(CO)(O)C1=CC(=C(C=C1)OCC)F)(F)F | C11H12F4O3
reactant | 3-phenoxybenzyl bromide | 0.39 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | sodium hydroxide | 5cm3 | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulphate | 50 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
product | 1,1,1-trifluoro-2-(3-fluoro-4-ethoxyphenyl)-3-(3-phenoxybenzyloxy) propan-2-ol | 0.67 g | FC(C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(O)C1=CC(=C(C=C1)OCC)F)(F)F | C24H22F4O4
